US07906645B2
N′-Cyano-N-(3,4-dichlorophenyl)-4-{[(3R)-1-ethylpiperidin-3-yl]methyl}piperazine-1-carboximidamide
3,4-Dichlorophenylisothiocyanate (204 mg) and sodium hydrogen cyanamide (70 mg) were refluxed in ethanol (20 ml) for three hours. The mixture was allowed to cool to room temperature then 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (211 mg), 1-{[(3R)-1-ethylpiperidin-3-yl]methyl}piperazine (220 mg) and N,N-dimethylformamide (2 ml) were added and the reaction left to stir for 18 hours then concentrated in vacuo. The crude product was subjected to reverse phase HPLC using a gradient of 95% water/acetonitrile/0.1% TFA through to 50% water/acetonitrile/0.1% TFA. The combined product fractions were concentrated in vacuo then separated between dichloromethane (50 ml) and saturated sodium bicarbonate solution (100 ml). The dichloromethane layer was separated, dried over magnesium sulphate, filtered and concentrated in vacuo to give the title compound (159 mg).

reactant | 3,4-Dichlorophenylisothiocyanate | 204 mg | ClC=1C=C(C=CC1Cl)N=C=S | C7H3Cl2NS
reactant | sodium hydrogen cyanamide | 70 mg | N#CN.[Na]
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 211 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-{[(3R)-1-ethylpiperidin-3-yl]methyl}piperazine | 220 mg | C(C)N1C[C@@H](CCC1)CN1CCNCC1 | C12H25N3
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | N′-Cyano-N-(3,4-dichlorophenyl)-4-{[(3R)-1-ethylpiperidin-3-yl]methyl}piperazine-1-carboximidamide | 159 mg | C(#N)N=C(NC1=CC(=C(C=C1)Cl)Cl)N1CCN(CC1)C[C@H]1CN(CCC1)CC | C20H28Cl2N6
